US08138189B2
Step 6: 5-[2-(2-Chloro-4-methoxy-phenyl)-1-hydroxy-1-trifluoromethyl-propyl]-1-methyl-1H-pyridin-2-one
To a solution of 5-[2-(2-chloro-4-methoxy-phenyl)-1-hydroxy-1-trifluoromethyl-propyl]-1H-pyridin-2-one (100 mg) in N,N-dimethylacetamide (1.5 ml) were added powdered K2CO3 (42 mg) and iodomethane (41 mg). The mixture was stirred at room temperature for 3 days. EtOAc and water were added and the mixture was extracted with EtOAc. The organic phase was dried (MgSO4), filtered and concentrated to dryness. The product was purified by chromatography (SiO2, cyclohexane/EtOAc 1:1=>0:1) to give the title compound (113 mg, contains 10.7 mass-% of N,N-dimethylacetamide) as a light yellow oil. MS (m/e)=376.1 [M+H+].

reactant | 5-[2-(2-chloro-4-methoxy-phenyl)-1-hydroxy-1-trifluoromethyl-propyl]-1H-pyridin-2-one | 100 mg | ClC1=C(C=CC(=C1)OC)C(C(C(F)(F)F)(O)C=1C=CC(NC1)=O)C | C16H15ClF3NO3
reactant | K2CO3 | 42 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 41 mg | IC | CH3I
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | N,N-dimethylacetamide | 1.5 ml | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | 5-[2-(2-Chloro-4-methoxy-phenyl)-1-hydroxy-1-trifluoromethyl-propyl]-1-methyl-1H-pyridin-2-one | 113 mg | ClC1=C(C=CC(=C1)OC)C(C(C(F)(F)F)(O)C=1C=CC(N(C1)C)=O)C | C17H17ClF3NO3
